* Slow AUX partial-rail sweep: PWM high, INM low, AUX 0 -> 6 -> 0 V.
* This distinguishes the TI-derived 4.2/3.9 V AUX qualification from a
* discarded 7 V threshold approximation.
.include authored_logic_hysteretic_slew.inc
Vaux aux15 0 PWL(0 0 1u 0 3u 6 5u 6 7u 0 8u 0)
Vdisable disable 0 0
Vpwm pwm_input 0 5
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_HS
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
.tran 1n 8u
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
wrdata authored-aux-sweep.tsv v(aux15) v(driver_out) v(gate) v(xdriver.aux_state) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.driver_req)
quit
.endc
.end
