* Late absolute-time screen near 0.257 s. This is a numerical finite-trace
* probe of the authored state machine, not a vendor-model reproduction.
.include authored_logic_hysteretic_slew.inc
Vaux aux15 0 15
Vdisable disable 0 0
* Hold PWM high through a long static prehistory, then apply an approximately
* 1 ns falling edge near 0.257 s to exercise the known precision regime.
Vpwm pwm_input 0 PWL(0 5 0.2569900 5 0.2569905 0 0.2570200 0)
Xdriver disable pwm_input aux15 0 driver_out AUTH_UCC27511A_HS
Rgate driver_out gate 10
Rgs gate 0 10k
Cgate gate 0 12n
.tran 500n 0.25702
.control
set numdgt=17
set wr_singlescale
set wr_vecnames
run
wrdata authored-late.tsv v(pwm_input) v(driver_out) v(gate) v(xdriver.pwm_state) v(xdriver.inm_state) v(xdriver.aux_state) v(xdriver.driver_req)
quit
.endc
.end
