* Actual controller-finite-edge model with PWM data forced undefined.
.include ucc28180.inc
Vcc vcc 0 15
Vvs vsense 0 3
Vis isense 0 0
Vic icomp 0 .72
Vvc vcomp 0 3
XU vcc vsense isense icomp vcomp gate 0 UCC28180_FN
Rgate gate 0 10k
.options method=gear reltol=1e-5 abstol=1e-12 vntol=1e-9
.save time v(gate) v(xu.pwm_hold) v(xu.raw) v(xu.fault) v(xu.ov) v(xu.pcl_hold)
.tran 1n 20u 0 1n uic
.control
set wr_singlescale
set wr_vecnames
set numdgt=17
run
print v(gate) v(xu.pwm_hold) v(xu.raw) v(xu.fault) v(xu.ov) v(xu.pcl_hold)
eprint xu.pwm_q
wrdata unknown-analog.tsv v(gate) v(xu.pwm_hold) v(xu.raw) v(xu.fault) v(xu.ov) v(xu.pcl_hold)
quit
.endc
.end
